US06380387B1
A mixture of N-(benzyloxycarbonyl)-4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-3-methyl-L-phenylalanine methyl ester (0.34 mmol, 159 mg), cyclohexene (1 mL) and 10% palladium on carbon (100 mg) in ethanol (3 mL) was heated to reflux for 20 min. Then, it was filtered through a pad of celite and the pad was washed with ethanol (10 mL). The combined filtrate was concentrated and the residue was dried under high vacuum to afford 96 mg (85% yield) of 4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-3-methyl-L-phenylalanine methyl ester as a sticky yellow solid. ES-HRMS m/e calcd for C17H21N3O4 (M+Na) 354.1424, found 354.1424.

reactant | N-(benzyloxycarbonyl)-4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-3-methyl-L-phenylalanine methyl ester | 0.34 mmol, 159 mg | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC(=C(C=C1)C=1C(N(C(N(C1)C)=O)C)=O)C)=O | C25H27N3O6
reactant | cyclohexene | 1 mL | C1=CCCCC1 | C6H10
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-3-methyl-L-phenylalanine methyl ester | 96 mg, 85% yield | COC([C@@H](N)CC1=CC(=C(C=C1)C=1C(N(C(N(C1)C)=O)C)=O)C)=O | C17H21N3O4
